US07495103B2
3-sec-Butyl-1H-indol-6-ylamine (B-14) was synthesized following the general scheme above starting from 6-nitroindole and 2-bromobutane. Overall yield (20%). HPLC ret. time 2.32 min, 10-99% CH3CN, 5 min run; ESI-MS 189.5 m/z (MH+).

reactant | 6-nitroindole | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | 2-bromobutane | BrC(C)CC | C4H9Br
solvent | CH3CN | CC#N | C2H3N
product | 3-sec-Butyl-1H-indol-6-ylamine | C(C)(CC)C1=CNC2=CC(=CC=C12)N | C12H16N2
